US06130238
Dimethyl 2-[2-nitro-4-(3-trifluoroacetamidophenyl)phenyl]-malonate (4.4 g) was refluxed overnight in 50 mL 6N hydrochloric acid. The reaction mixture was cooled to room temperature and the solids were collected by vacuum filtration, washed with water, and dried under vacuum to give 2.7 g (73% yield) of 2-[2-nitro-4-(3-trifluoroacetamidophenyl)phenyl] acetic acid.

reactant | Dimethyl 2-[2-nitro-4-(3-trifluoroacetamidophenyl)phenyl]-malonate | 4.4 g | [N+](=O)([O-])C1=C(C=CC(=C1)C1=CC(=CC=C1)NC(C(F)(F)F)=O)C(C(=O)OC)C(=O)OC | C19H15F3N2O7
solvent | hydrochloric acid | 6N, 50 mL | Cl | ClH
product | 2-[2-nitro-4-(3-trifluoroacetamidophenyl)phenyl] acetic acid | 2.7 g, 73% yield | [N+](=O)([O-])C1=C(C=CC(=C1)C1=CC(=CC=C1)NC(C(F)(F)F)=O)CC(=O)O | C16H11F3N2O5
